US07531532B2
Methyl-[1-(1-methylazetidin-3-yl)piperidin-4-yl]amine
To a solution of tert-butyl 3-[4-(tert-butoxycarbonylamino)piperidin-1-yl]azetidine-1-carboxylate (2.49 g) in tetrahydrofuran (100 ml) was added lithium aluminium hydride (930 mg) while stirring in an ice bath, followed by stirring under a nitrogen atmosphere in an ice bath for 10 min and at room temperature for 10 min. The reaction mixture was refluxed under a nitrogen atmosphere for 1.5 hrs. The reaction mixture was cooled in an ice bath, and then water (0.93 ml), a 5N aqueous solution of sodium hydroxide (0.93 ml), and water (4.65 ml) were added thereto in this order, followed by stirring at room temperature for 24 hrs. The insoluble portion was filtered off and washed with ethyl acetate to give a filtrate, which was concentrated to provide the titled compound (1.07 g, 83.4%) as a pale yellow oil.

reactant | tert-butyl 3-[4-(tert-butoxycarbonylamino)piperidin-1-yl]azetidine-1-carboxylate | 2.49 g | C(C)(C)(C)OC(=O)NC1CCN(CC1)C1CN(C1)C(=O)OC(C)(C)C | C18H33N3O4
reactant | lithium aluminium hydride | 930 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.93 ml | O | H2O
reactant | sodium hydroxide | 0.93 ml | [OH-].[Na+]
reactant | water | 4.65 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Methyl-[1-(1-methylazetidin-3-yl)piperidin-4-yl]amine | 1.07 g, 83.4% | CNC1CCN(CC1)C1CN(C1)C | C10H21N3
